US07846929B2
5-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyridine-3-carboxylic acid (40 mg) was reacted with N,N-dimethylethylenediamine via General Procedure B to yield 5-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-dimethylamino)ethyl)pyridine-3-carboxamide. Crude 5-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-dimethylamino)ethyl)pyridine-3-carboxamide (46 mg) was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield 22.3 mg of 343. MS (Q1) 529.0 (M)+

reactant | 5-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyridine-3-carboxylic acid | 40 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C=NC2)C(=O)O)N2CCOCC2 | C16H13ClN4O3S
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
product | pyridine-3-carboxamide | N1=CC(=CC=C1)C(=O)N | C6H6N2O
